US04775662
3-Carbomethoxypropionyl chloride 1(a)
To an ice-cold solution of mono-methyl succinate, (150 g, 1.135 mol) in 900 ml of methylene chloride and 3 ml of N,N-dimethylformamide was added 119 ml (1.26 mol) of oxalyl chloride, while keeping the pot temperature below 5° C. After the addition was complete, the reaction mixture was stirred at 0° C. for 1 hour and then concentrated to vacuo to give a crude yellow liquid, which was used without purification in the Rosenmund reduction.

reactant | mono-methyl succinate | 1.135 mol, 150 g | C(CCC(=O)[O-])(=O)OC
reactant | oxalyl chloride | 1.26 mol, 119 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 900 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-Carbomethoxypropionyl chloride | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
